US07253292B2
ii) N-(tert-butyl)(dimethyl)(2-methyl-8H-indeno[2,1-b]thiophen-8-yl)silanamine
A solution of 0.93 mL (0.0089 mol) of tert-butylamine in 30 mL of ether was treated dropwise with 5.55 mL (0.0089 mol) of 1.6M BuLi in hexane at −30° C. The reaction mixture was stirred at r.t. for 3 h and the resulting suspension was treated with a solution of 2.47 g (0.0088 mol) of chloro(dimethyl)(2-methyl-8H-indeno[2,1-b]thiophen-8-yl)silane in 10 mL of ether at −70° C. The resulting suspension was allowed to warm to r.t. and was stirred overnight. The solution was separated from LiCl and evaporated. The residue was treated with 60 mL hexane, the solution was isolated and evaporated. Yield 1.98 g (71%) of crude product as red oil.

reactant | tert-butylamine | 0.0089 mol, 0.93 mL | C(C)(C)(C)N | C4H11N
reactant | BuLi | 0.0089 mol, 1.6M, 5.55 mL | [Li]CCCC
reactant | chloro(dimethyl)(2-methyl-8H-indeno[2,1-b]thiophen-8-yl)silane | 0.0088 mol, 2.47 g | Cl[Si](C1C=2C=CC=CC2C2=C1SC(=C2)C)(C)C | C14H15ClSSi
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 10 mL | CCOCC | C4H10O
product | N-(tert-butyl)(dimethyl)(2-methyl-8H-indeno[2,1-b]thiophen-8-yl)silanamine | C(C)(C)(C)N[Si](C1C=2C=CC=CC2C2=C1SC(=C2)C)(C)C | C18H25NSSi
